plaintext
* NMOS Differential Pair with Resistor Loads

M1 2 1 0 0 NMOS
M2 5 1 0 0 NMOS

RD1 3 4 RD
RD2 5 6 RD

VDD 3 0 VDD

VIN 1 0 DC 0V

* Additional Definitions
.model NMOS nmos level=1

.END